US05393875
0.28 ml (2.1 mmol) of triethylamine and 265 mg (0.7 mmol) of HBTU were added to a solution of 328 mg (0.7 mmol) of (S)-α-[[[1-methyl-1-[methyl-[2-(2-pyridyl)ethyl]carbamoyl]ethyl]sulfonyl]methyl]hydrocinnamic acid and 181 mg (0.7 mmol) 3-(thiazol-4-yl)-D,L-alanine methyl ester dihydrochloride in 7 ml of acetonitrile and the mixture was stirred at room temperature overnight. Evaporation of the solution under reduced pressure and chromatography of the residue on silica gel using a 200:10:1 mixture of methylene chloride, methanol and ammonia as the eluent yielded 309 mg of N-[(S)-α-[[[1-methyl-1-[methyl-[2-(2-pyridyl)ethyl]carbamoyl]ethyl]sulfonyl]methyl]hydrocinnamoyl]-3-(thiazol-4-yl)-D,L-alanine methyl ester as a colourless foam, MS: 601 (M+H)+.

reactant | triethylamine | 2.1 mmol, 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | HBTU | 0.7 mmol, 265 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-α-[[[1-methyl-1-[methyl-[2-(2-pyridyl)ethyl]carbamoyl]ethyl]sulfonyl]methyl]hydrocinnamic acid | 0.7 mmol, 328 mg | CC(C)(C(N(CCC1=NC=CC=C1)C)=O)S(=O)(=O)C[C@H](C(=O)O)CC1=CC=CC=C1 | C22H28N2O5S
reactant | 3-(thiazol-4-yl)-D,L-alanine methyl ester dihydrochloride | 0.7 mmol, 181 mg | Cl.Cl.COC(C(N)CC=1N=CSC1)=O
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
product | N-[(S)-α-[[[1-methyl-1-[methyl-[2-(2-pyridyl)ethyl]carbamoyl]ethyl]sulfonyl]methyl]hydrocinnamoyl]-3-(thiazol-4-yl)-D,L-alanine methyl ester | 309 mg | COC(C(NC([C@H](CC1=CC=CC=C1)CS(=O)(=O)C(C)(C(N(CCC1=NC=CC=C1)C)=O)C)=O)CC=1N=CSC1)=O | C29H36N4O6S2
